US05440044
A solution of 500 mg of 5-[(6-bromo-2-pyridyl)-methyl]-tetrahydrofuran-2-one in 13 ml of triethylamine and 2 ml of tetrahydrofuran is mixed with 350 mg of (3RS)-1-undecin-3-ol, 37 mg of bis-(triphenylphosphine)-palladium(II) chloride and 5 mg of copper(I) iodide and the mixture is stirred for 3 days at room temperature. The reaction mixture is evaporated to dryness, distributed between water and ethyl acetate, dried on sodium sulfate, concentrated by evaporation and the residue is chromatographed on silica gel with hexane/0-35% ethyl acetate. 294 mg of 5-{6-[(3RS)-3-hydroxy-1-undecinyl]-2-pyridyl-methyl}-tetrahydrofuran-2-one is obtained as oil.

reactant | 5-[(6-bromo-2-pyridyl)-methyl]-tetrahydrofuran-2-one | 500 mg | BrC1=CC=CC(=N1)CC1CCC(O1)=O | C10H10BrNO2
reactant | (3RS)-1-undecin-3-ol | 350 mg | C#CC(CCCCCCCC)O | C11H20O
solvent | triethylamine | 13 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
catalyst | bis-(triphenylphosphine)-palladium(II) chloride | 37 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 5 mg | [Cu]I
product | 5-{6-[(3RS)-3-hydroxy-1-undecinyl]-2-pyridyl-methyl}-tetrahydrofuran-2-one | 294 mg | OC(C#CC1=CC=CC(=N1)CC1CCC(O1)=O)CCCCCCCC | C21H29NO3
